US06982348B2
To a solution of zinc chloride (21.2 g, 0.156 mol) in diethyl ether (200 ml) was added sodium borohydride (13.1 g, 0.31 mol) and the mixture was stirred at room temperature for 2 hrs. The insoluble material was removed by filtration. To the filtrate was added a solution of ethyl 3-(4-fluorophenyl)-3-oxo-2-(4-methoxybenzyl)propionate (25.7 g, 77.8 mmol) in diethyl ether (50 ml) and the mixture was stirred at room temperature for 1 hr. 1N Hydrochloric acid was added to the reaction solution under ice-cooling to terminate the reaction. Water (200 ml) and ethyl acetate (200 ml) were added to the mixture and the mixture was extracted. The extract was washed with water and saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=10:1-3:1) to give ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-(4-methoxybenzyl)propionate (23.3 g, 90%) as a colorless oil.

reactant | sodium borohydride | 0.31 mol, 13.1 g | [BH4-].[Na+]
reactant | ethyl 3-(4-fluorophenyl)-3-oxo-2-(4-methoxybenzyl)propionate | 77.8 mmol, 25.7 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)OC)=O | C19H19FO4
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | Water | 200 ml | O | H2O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 0.156 mol, 21.2 g | [Cl-].[Zn+2].[Cl-]
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-(4-methoxybenzyl)propionate | 23.3 g, 90% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC=C(C=C1)OC)O | C19H21FO4
